US05646176
Preparation 9. (3R, 4S)-1-t-Butoxycarbonyl-4-phenyl-3-triethylsilyloxy-2-azetidinone
To a stirred solution of (3R,4S)-4-phenyl-3-triethylsilyloxy-2-azetidinone (2.200 g, 7.92 mmol) in dry tetrahydrofuran (25 mL) was added N,N-diisopropylethylamine (1.65 mL. 9.510 mmol, 1.2 equiv) at 0° C. under an argon atmosphere. The solution was stirred for 5 min followed by the addition of di-t-butyl dicarbonate (2.080 g, 9.510 mmol, 1.2 equiv) and 4-dimethylaminopyridine (193.6 mg, 1.581 mmol, 0.20 equiv). The reaction mixture was stirred at 0° C. for 60 min., then diluted with ethyl acetate (25 mL). The resulting solution was washed with brine, 10% NaHCO3, 10% HCl solution, dried (MgSO4), and concentrated to give a crude compound (oil). The compound was further purified by silica gel flash chromatography (being eluted with 15% ethyl acetate in hexanes) to afford the title compound as a white solid (2.4 g, Y: 83%).

reactant | (3R,4S)-4-phenyl-3-triethylsilyloxy-2-azetidinone | 7.92 mmol, 2.200 g | C1(=CC=CC=C1)[C@H]1[C@H](C(N1)=O)O[Si](CC)(CC)CC | C15H23NO2Si
reactant | N,N-diisopropylethylamine | 9.510 mmol, 1.65 mL, 1.2 equiv | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di-t-butyl dicarbonate | 9.510 mmol, 2.080 g, 1.2 equiv | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 1.581 mmol, 193.6 mg, 0.20 equiv | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | (3R, 4S)-1-t-Butoxycarbonyl-4-phenyl-3-triethylsilyloxy-2-azetidinone | 2.4 g, 83% | C(C)(C)(C)OC(=O)N1C([C@@H]([C@@H]1C1=CC=CC=C1)O[Si](CC)(CC)CC)=O | C20H31NO4Si
